US04087336
The electrolytic cell was charged with 100 milliliters of 1.5 molar aqueous sodium hydroxide and 10.0 grams (0.082 mole) of 2-hydroxybenzaldehyde (salicylaldehyde). The electrolysis was conducted at a constant current of 3.0 amperes and a temperature of 28° C to 32° C over a 1-hour period. The cathode potential was -1.67 volts versus the saturated calomel electrode. Upon completion of the electrolysis, the solution was acidified to about 6.3 by the addition of glacial acetic acid and extracted with three 100-milliliter portions of ethyl acetate. The ethyl acetate extracts were combined, washed with three 100-milliliter portions of water, and dried over anhydrous magnesium sulfate. Evaporation of the solvent in vacuo and drying of the resulting oil material in a vacuum dessicator yielded 9.3 grams (46.0 percent) of 1,2-bis(2-hydroxyphenyl)-ethane-1,2-diol (2,2'-dihydroxyhydrobenzoin) as a mixture of oil and crystals. The identity of the material was confirmed by nuclear magnetic resonance spectroscopy in pyridine-d5.

reactant | sodium hydroxide | 1.5 molar, 100 milliliters | [OH-].[Na+]
reactant | 2-hydroxybenzaldehyde | 0.082 mole, 10.0 grams | OC1=C(C=O)C=CC=C1 | C7H6O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2-bis(2-hydroxyphenyl)-ethane-1,2-diol | 9.3 grams, 46.0 percent | OC1=C(C=CC=C1)C(C(O)C1=C(C=CC=C1)O)O | C14H14O4
